US08106070B2
2-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-1-[4-(1H-pyrazol-1-yl)phenyl]propan-2-ol
Hydrogen chloride (4 M in 1,4-dioxane) (0.25 mL, 1 mmol) was added to an ambient temperature solution of 4-(2,2-dimethylpropyl)-2-{1-hydroxy-1-methyl-2-[4-(1H-pyrazol-1-yl)phen yl]ethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide (25 mg, 0.06 mmol) in methanol (2 mL). After stirring at 80° C. for 2 h, volatiles were removed in vacuo. The residue was partitioned between 1 N hydrochloric acid and diethyl ether. The aqueous phase was basified with 4 N aqueous sodium hydroxide and extracted with ethyl acetate. The combined organic extracts were dried (sodium sulfate) and concentrated in vacuo to afford the title compound. Chiral HPLC eluting with IPA/heptane afforded the two individual enantiomers. 1H NMR (500 MHz, CD3OD) δ 7.84 (s, 1H), 7.7 (s, 1H), 7.5 (d, J=7 Hz, 2H), 7.05 (d, J=7 Hz, 2H), 6.6 (s, 1H), 6.4 (s, 1H), 3.35 (d, J=12 Hz, 1H), 3.05 (d, J=12 Hz, 1H), 2.40 (s, 2H), 1.63 (s, 3H), 0.85 (s, 9H); (M+H) found: 339.

reactant | Hydrogen chloride | 1 mmol, 4 M, 0.25 mL | Cl | ClH
reactant | 4-(2,2-dimethylpropyl)-2-{1-hydroxy-1-methyl-2-[4-(1H-pyrazol-1-yl)phen yl]ethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.06 mmol, 25 mg | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)N1N=CC=C1)(C)O)(C)C | C22H31N5O3S
solvent | methanol | 2 mL | CO | CH4O
product | 2-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-1-[4-(1H-pyrazol-1-yl)phenyl]propan-2-ol | CC(CC=1N=C(NC1)C(CC1=CC=C(C=C1)N1N=CC=C1)(C)O)(C)C | C20H26N4O
